US07534547B2
The reaction was conducted in the same manner as in the step (i) of the Example 31, except for using 1-tert-butyl-4-bromobenzoate synthesized in the step (i) and 4-n-propyloxyphenylacetylene synthesized in the step (iii) of the Example 32 instead of 1-n-propyl-4-bromobenzene and trimethylsilylacetylene, respectively. After completion of the reaction, the reaction mixture was poured into an iced water, and the resultant mixture was acidified by adding hydrochloric acid. The resultant solid was collected by filtration, washed with water, dried, and recrystallized from hexane to give 1-[4-(tert-butoxycarbonyl)phenyl]-2-(4-n-propyloxyphenyl)acetylene.

reactant | 1-tert-butyl-4-bromobenzoate | C(C)(C)(C)C1(C(=O)[O-])CC=C(C=C1)Br
reactant | 4-n-propyloxyphenylacetylene | C(CC)OC1=CC=C(C=C1)C#C | C11H12O
reactant | 1-n-propyl-4-bromobenzene | C(CC)C1=CC=C(C=C1)Br | C9H11Br
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-[4-(tert-butoxycarbonyl)phenyl]-2-(4-n-propyloxyphenyl)acetylene | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCCC | C22H24O3
